US05356893
4-(Trifluoromethyl)phenyl trifluoromethanesulphonate
A solution of trifluoromethanesulphonic anhydride (1.0 g) in dichloromethane (2 ml) was added dropwise to a solution of 4-(trifluoromethyl)phenol (0.5 g) in dichloromethane (10 ml) and pyridine (0.5 ml) at 0° under nitrogen. The resulting suspension was stirred for 1 h at room temperature, diluted with dichloromethane (20 ml) and washed with aqueous sodium carbonate (2N; 20 ml). The dried organic phase was evaporated and the residue was purified by FCC eluting with ether to give the title compound as a colourless oil (710 mg).

reactant | trifluoromethanesulphonic anhydride | 1.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-(trifluoromethyl)phenol | 0.5 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(Trifluoromethyl)phenyl trifluoromethanesulphonate | 710 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)C(F)(F)F)(F)F | C8H4F6O3S
